data/rdb19/train.csv
rxn,smiles,ea
3675,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:19]([O:18][C:17]([H:21])([H:22])[H:23])([C:20]([H:25])[H:26])[H:24])([H:10])[H:11])([H:7])([H:8])[H:9],21.937974602158647
3020,[C:16]([H:17])([H:18])[H:19].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:16]([H:17])([H:18])[H:19])([H:8])([H:9])[H:10].[O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13],49.47436249352177
3626,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[H:28])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],21.289154217287432
3462,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([C:18](=[C:19][H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:26])([H:9])[H:10])([H:6])([H:7])[H:8],28.02230067620985
5550,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6][H:11])[H:10])([H:7])([H:8])[H:9].[H:12][C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25],32.6220369329676
1219,[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[O:7][H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:18]1([H:26])[C:17]([H:25])=[C:16]([C:15](=[C:14]([H:22])[H:23])[H:24])[C:21]([H:29])=[C:20]([H:28])[C:19]1[H:27],39.52512741211103
499,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:20])([H:21])[H:22])([N:11]([C:12](=[O:13])[H:24])[H:23])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([O:2])([H:4])([H:5])[H:6].[O-:3][O+:13]=[C:12]([N:11]([C:9]([C:8]([C:7]([H:14])([H:15])[H:16])([H:17])[H:18])([C:10]([H:20])([H:21])[H:22])[H:19])[H:23])[H:24],74.74831198528409
3455,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][H:28],59.1976635932806
3955,[C:11]([H:12])([H:13])[H:14].[O:1]([C:2]([C:3]([S:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5]>>[C:3]([S:4][H:10])([H:8])([H:9])[C:11]([H:12])([H:13])[H:14].[O:1]([C:2]([H:6])[H:7])[H:5],59.37506275327178
2560,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:21]([C:20]([H:26])([H:27])[H:28])([C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31],33.4106622619438
1390,[C:10]([C:11]([C:12]([C:13]([H:20])([H:21])[H:22])[C:14]([H:23])([H:24])[H:25])([H:18])[H:19])([H:15])([H:16])[H:17].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([C:13]([H:20])([H:21])[H:22])[C:14]([H:23])([H:24])[H:25])[H:19])([H:15])([H:16])[H:17].[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[H:18])[H:6],44.68691046524327
2669,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[H:25])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])[H:26],26.717391744896304
